US07351825B2
(1R*,2R*,3R*)-2-hydroxymethyl-3-phenyl-1-[5-(5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-sulfonylamino]-cyclopropanecarboxylic acid (step 5-12)
To 5-(5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-sulfonic acid [(1R*,5R*,6R*)-2-oxo-6-phenyl-3-oxa-bicyclo[3.1.0]hex-1-yl]-amide (53 mg, 11 mmol) were added LiOH—H2O (11 mg, 0.27 mmol), 1 mL of THF and 0.5 mL of water. After stirring overnight at room temperature, the reaction mixture was concentrated, diluted with water (2 mL), and acidified to pH 4 with 2N KHSO4. The product was extracted with EtOAc, washed with water (×2), brine and dried over Na2SO4. After concentrating, the product was precipitated from dichloromethane/hexane to afford the desired product as a white solid (46 mg, 86% yield).

reactant | 5-(5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-sulfonic acid [(1R*,5R*,6R*)-2-oxo-6-phenyl-3-oxa-bicyclo[3.1.0]hex-1-yl]-amide | 11 mmol, 53 mg | O=C1[C@]2([C@H]([C@H]2CO1)C1=CC=CC=C1)NS(=O)(=O)C=1SC(=CC1)C1=NOC(=C1)C(F)(F)F | C19H13F3N2O5S2
reactant | LiOH—H2O | 0.27 mmol, 11 mg | O[Li].O
reactant | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | (1R*,2R*,3R*)-2-hydroxymethyl-3-phenyl-1-[5-(5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-sulfonylamino]-cyclopropanecarboxylic acid | 46 mg, 86% yield | OC[C@H]1[C@]([C@H]1C1=CC=CC=C1)(C(=O)O)NS(=O)(=O)C=1SC(=CC1)C1=NOC(=C1)C(F)(F)F | C19H15F3N2O6S2
